US08258158B2
1-(Morpholine-4-sulfonyl)-piperidine-4-carboxylic acid ethyl ester (1.9 g) dissolved in methanol (80 ml) was treated at RT with 2M NaOH (15.5 ml) and the mixture was then heated at 85° C. for 12 h. The solvent was then evaporated off, the residue partitioned between methylene chloride and 1N HCL, the layers were separated and the organic layer washed with 2M aqueous KHCO3, dried over Na2SO4 and concentrated in vacuo to give 1-(morpholine-4-sulfonyl)-piperidine-4-carboxylic acid (1.37 g) as a white solid. MS (ESI): 277.08 ([M-H]−).

reactant | 1-(Morpholine-4-sulfonyl)-piperidine-4-carboxylic acid ethyl ester | 1.9 g | C(C)OC(=O)C1CCN(CC1)S(=O)(=O)N1CCOCC1 | C12H22N2O5S
reactant | NaOH | 2M, 15.5 ml | [OH-].[Na+]
solvent | methanol | 80 ml | CO | CH4O
product | 1-(morpholine-4-sulfonyl)-piperidine-4-carboxylic acid | 1.37 g | N1(CCOCC1)S(=O)(=O)N1CCC(CC1)C(=O)O | C10H18N2O5S
